US08487094B2
To a solution of (R)-6-allyl-3-((S)-1-(4-bromophenyl)propyl)-6-phenyl-1,3-oxazinan-2-one (100 mg, 0.242 mmol) in tetrahydrofuran (10 mL) was added BH3 THF (3 mL, 1 mol/L) at 0° C. under nitrogen. The formed mixture was stirred for 2 h. Then the reaction was quenched by water, followed by 3 mol/L NaOH and H2O2 (3 mL). The PH of the mixture was adjusted to <7 with 5% HCl. The organic phase was separated, extracted by EtOAc, and concentrated to give the crude product, which was purified by preparative HPLC to give (R)-3-((S)-1-(4-bromophenyl)propyl)-6-(3-hydroxypropyl)-6-phenyl-1,3-oxazinan-2-one (15 mg, 15%). LC-MS Method 3 tR=1.36, min, m/z=432, 434; 1H NMR (CDCl3): δ=0.99 (t, 3H), 1.29 (m, 1H), 1.63 (m, 1H), 1.98 (m, 4H), 2.20-2.42 (m, 2H), 2.48 (m, 1H), 3.08 (m, 1H), 3.49 (m, 1H), 5.30 (m, 1H), 6.92 (m, 2H), 7.26 (m, 4H), 7.35 (m, 2H).

reactant | (R)-6-allyl-3-((S)-1-(4-bromophenyl)propyl)-6-phenyl-1,3-oxazinan-2-one | 0.242 mmol, 100 mg | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](CC)C1=CC=C(C=C1)Br)C1=CC=CC=C1 | C22H24BrNO2
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | THF | 1 mol/L, 3 mL | C1CCOC1 | C4H8O
product | (R)-3-((S)-1-(4-bromophenyl)propyl)-6-(3-hydroxypropyl)-6-phenyl-1,3-oxazinan-2-one | 15 mg, 15% | BrC1=CC=C(C=C1)[C@H](CC)N1C(O[C@](CC1)(C1=CC=CC=C1)CCCO)=O | C22H26BrNO3
